US05274116
Phenylmethyl-[2-[(3-benzoyl-1H-pyrrol-1-yl)amino]-2-oxoethyl]carbamate
To a solution of (1-amino-1H-pyrrol-3-yl)phenylmethanone (5.96 g) and N-carbobenzyloxyglycine (6.69 g) in 70 ml of anhydrous DCM and 30 ml of anhydrous dimethylformamide was added DCC (7.22 g). The reaction mixture was stirred at room temperature for 4 hours and filtered. The filter cake was washed with ethyl acetate, and the combined filtrates were evaporated in vacuo. The residual oil was purified by preparative HPLC (silica gel, DCM/ethyl acetate 3:1). Evaporation of the desired fractions afforded a colorless oil, which was crystallized from DCM/ethyl ether yielding the product as colorless crystals (5.96 g), m.p. 144°-145° C.

reactant | (1-amino-1H-pyrrol-3-yl)phenylmethanone | 5.96 g | NN1C=C(C=C1)C(=O)C1=CC=CC=C1 | C11H10N2O
reactant | N-carbobenzyloxyglycine | 6.69 g | C(=O)(OCC1=CC=CC=C1)NCC(=O)O | C10H11NO4
reactant | DCC | 7.22 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | DCM | 70 ml | C(Cl)Cl | CH2Cl2
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | Phenylmethyl-[2-[(3-benzoyl-1H-pyrrol-1-yl)amino]-2-oxoethyl]carbamate | C1(=CC=CC=C1)COC(NCC(=O)NN1C=C(C=C1)C(C1=CC=CC=C1)=O)=O | C21H19N3O4
